US05759247
To a mixture of N-(β-hydroxyethyl)diethylamine (5.86 g) and 2,4-diaminobenzene sulphonic acid (7.52 g) in dimethylsulphoxide (45 cm3) was added 1,2,4,5-tetrafluoro-3,6-dicyanobenzene (8.25 g) portionwise with stirring. The mixture was heated at 75° C. for 4 hours then poured into ice/water (140 cm3) to give a solution of 2-amino-4-(2,4,5-trifluoro-3,6-dicyanophenylamino)benzene sulphonic acid.

reactant | N-(β-hydroxyethyl)diethylamine | 5.86 g | OCCN(CC)CC | C6H15NO
reactant | 2,4-diaminobenzene sulphonic acid | 7.52 g | NC1=C(C=CC(=C1)N)S(=O)(=O)O | C6H8N2O3S
reactant | 1,2,4,5-tetrafluoro-3,6-dicyanobenzene | 8.25 g | FC1=C(C(=C(C(=C1C#N)F)F)C#N)F | C8F4N2
solvent | dimethylsulphoxide | 45 cm3 | CS(=O)C | C2H6OS
product | 2-amino-4-(2,4,5-trifluoro-3,6-dicyanophenylamino)benzene sulphonic acid | NC1=C(C=CC(=C1)NC1=C(C(=C(C(=C1C#N)F)F)C#N)F)S(=O)(=O)O | C14H7F3N4O3S
